US05036074
starting from 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-4-pentyn-1-one and methoxymethyltriphenylphosphonium chloride there is obtained 3-[2,4-dichloro-α-methoxymethylene-β-(2-propynyl)-phenethyl]-pyridine

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-4-pentyn-1-one | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)CC#C | C16H11Cl2NO
reactant | methoxymethyltriphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[2,4-dichloro-α-methoxymethylene-β-(2-propynyl)-phenethyl]-pyridine | ClC1=C(C(C(=COC)C=2C=NC=CC2)CC#C)C=CC(=C1)Cl | C18H15Cl2NO
